US04824843
To an ice cold solution of 3-(5,6-dihydro-4H-1,3-oxazin-2-yl)benzenamine, 8.8 g (0.05 mol), (Journal of the American Chemical Society, Vol. 59, pp. 2259-2261, (1937)) and triethylamine, 10 ml, in dichloromethane, 300 ml, is added 5-(2,5-dimethylphenoxy)-2,2-dimethylpentanoyl chloride, 13.4 g (0.05 mol), (U.S. Pat. No. 4,285,951). The mixture is worked up to give 18.8 g of N-[3-(5,6-dihydro-4H-1,3-oxazin-2-yl)phenyl]-5-(2,5-dimethylphenoxy)-2,2-dimethylpentanamide after recrystallization from diisopropyl ether; mp 114°-115° C.

reactant | 3-(5,6-dihydro-4H-1,3-oxazin-2-yl)benzenamine | O1C(=NCCC1)C=1C=C(C=CC1)N | C10H12N2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 5-(2,5-dimethylphenoxy)-2,2-dimethylpentanoyl chloride | CC1=C(OCCCC(C(=O)Cl)(C)C)C=C(C=C1)C | C15H21ClO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[3-(5,6-dihydro-4H-1,3-oxazin-2-yl)phenyl]-5-(2,5-dimethylphenoxy)-2,2-dimethylpentanamide | 18.8 g | O1C(=NCCC1)C=1C=C(C=CC1)NC(C(CCCOC1=C(C=CC(=C1)C)C)(C)C)=O | C25H32N2O3
